US03959275
1-(3-cyano-3,3-diphenylpropyl)-4-phenylpiperidine-4-carboxylic acid chloride hydrochloride
To 7 grams of 1-(3-cyano-3,3-diphenylpropyl)-4-phenylpiperidine-4-carboxylic acid suspended in 100 ml. of anhydrous tetrahydrofuran and 5 ml. of redistilled N,N-dimethylformamide is added 8 ml. of thionyl chloride in 50 ml. of anhydrous tetrahydrofuran. The resulting clear solution is stirred at room temperature under anhydrous conditions for about 5 minutes, then heated at the reflux temperature for 15 minutes and concentrated to dryness. To the residue is added an equal volume of tetrahydrofuran and the resultant mixture is contacted with a stream of nitrogen and stripped of solvent by vacuum distillation. The residue is triturated with cold tetrahydrofuran, then filtered. The filtrate is concentrated to dryness at room temperature in a nitrogen atmosphere. The solid residue is filtered with anhydrous ether and dried at room temperature in vacuo, thus affording 1-(3-cyano-3,3-diphenylpropyl)-4-phenylpiperidine-4-carboxylic acid chloride hydrochloride, melting at about 169°-171°C. with decomposition. The product has the formula ##SPC10##

reactant | 1-(3-cyano-3,3-diphenylpropyl)-4-phenylpiperidine-4-carboxylic acid | 7 grams | C(#N)C(CCN1CCC(CC1)(C(=O)O)C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C28H28N2O2
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-(3-cyano-3,3-diphenylpropyl)-4-phenylpiperidine-4-carboxylic acid chloride hydrochloride | Cl.C(#N)C(CCN1CCC(CC1)(C(=O)Cl)C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C28H27ClN2O.ClH/c29-26(32)27(23-10-4-1-5-11-23)16-19-31(20-17-27)21-18-28(22-30,24-12-6-2-7-13-24)25-14-8-3-9-15-25;/h1-15H,16-21H2;1H
